US07148226B2
4-Cyclohexyl-1-cyclopentyl-butan-1-one
The title compound was prepared analogously to Example A(44), where cyclohexanebutyric acid was substituted in place of 3-cyclohexylpropionic acid in Step 1 of that example.

reactant | cyclohexanebutyric acid | C1(CCCCC1)CCCC(=O)O | C10H18O2
reactant | 3-cyclohexylpropionic acid | C1(CCCCC1)CCC(=O)O | C9H16O2
product | 4-Cyclohexyl-1-cyclopentyl-butan-1-one | C1(CCCCC1)CCCC(=O)C1CCCC1 | C15H26O
